US09126970B2
Step b): 10-(2,6-Diphenylpyridin-4-yl)-12,12-dimethyl-10,12-dihydro-10-azaindeno[2,1-b]fluorene
25 g (48 mmol) of 10-(2,6-dibromopyridin-4-yl)-12,12-dimethyl-10,12-dihydro-10-azaindeno[2,1-b]fluorene and 12.9 g of phenylboronic acid (106 mmol) are suspended in 300 ml of ethylene glycol dimethyl ether. 75 ml of a 2 M Na2CO3 solution are added to the reaction mixture. 2.8 g (2.4 mmol) of Pd(PPh3)4 are added to this suspension. The reaction mixture is heated under reflux for 12 h. After cooling, the precipitated solid is filtered off with suction and washed with water and ethanol and dried. The residue is extracted with hot toluene and recrystallised from toluene and finally sublimed in a high vacuum, the purity is 99.9%. Yield: 15 g, 60% of theory.

reactant | 10-(2,6-dibromopyridin-4-yl)-12,12-dimethyl-10,12-dihydro-10-azaindeno[2,1-b]fluorene | 48 mmol, 25 g | BrC1=NC(=CC(=C1)N1C2=CC=CC=C2C=2C=C3C(=CC12)C(C1=CC=CC=C13)(C)C)Br | C26H18Br2N2
reactant | phenylboronic acid | 106 mmol, 12.9 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | Na2CO3 | 2 M | C(=O)([O-])[O-].[Na+].[Na+]
solvent | ethylene glycol dimethyl ether | 300 ml | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 2.4 mmol, 2.8 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 10-(2,6-Diphenylpyridin-4-yl)-12,12-dimethyl-10,12-dihydro-10-azaindeno[2,1-b]fluorene | C1(=CC=CC=C1)C1=NC(=CC(=C1)N1C2=CC=CC=C2C=2C=C3C(=CC12)C(C1=CC=CC=C13)(C)C)C1=CC=CC=C1 | C38H28N2
